US08278331B2
Potassium tert-butoxide (2.4 g, 22 mmol) was added to a solution of 4-amino-2,6-difluorophenol (2.9 g, 20 mmol) in N,N-dimethyl-acetamide (50 mL) and the mixture was stirred at RT under nitrogen for 0.5 h. A solution of 2,4-dichloro-pyridine (2.9 g, 20 mmol) in N,N-dimethyl-acetamide was added, and the reaction was heated to 100° C. under nitrogen for 10 h. After cooling to RT, the reaction was poured into water (100 mL) and the aqueous solution was extracted with ethyl acetate (3×70 mL). The combined organics were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography to give 4-(2-chloropyridin-4-yloxy)-3,5-difluoroaniline (3.0 g, 59% yield). 1H NMR (300 MHz, DMSO-d6): δ 8.31 (d, J=5.7 Hz, 1H), 7.10 (d, J=2.1 Hz, 1H), 7.01 (dd, J=5.7 Hz, 2.1 Hz, 1H), 6.38 (d, J=10.8 Hz, 2H), 5.86 (s, 2H).

reactant | Potassium tert-butoxide | 22 mmol, 2.4 g | CC(C)([O-])C.[K+]
reactant | 4-amino-2,6-difluorophenol | 20 mmol, 2.9 g | NC1=CC(=C(C(=C1)F)O)F | C6H5F2NO
reactant | 2,4-dichloro-pyridine | 20 mmol, 2.9 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethyl-acetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | 4-(2-chloropyridin-4-yloxy)-3,5-difluoroaniline | 3.0 g, 59% yield | ClC1=NC=CC(=C1)OC1=C(C=C(N)C=C1F)F | C11H7ClF2N2O
